US07723329B2
Step 2) 2-Benzenesulfonylmethyl-6-(2-chloro-ethoxy)-phenylamine
A mixture of 1-benzenesulfonylmethyl-3-(2-chloro-ethoxy)-2-nitrobenzene (0.57 g, 1.6 mmoles) in ethanol (10 mL) was stirred under nitrogen in a round bottom flask at 60° C. 10% Pd/C was added, and the temperature was increased to 80° C. Hydrazine hydrate (1.5 mL) was added dropwise and the mixture was stirred at reflux for 3 hours. Reaction mixture was filtered off through Celite, and the solution was washed with H2O (3×), dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (0.5 g, 1.53 mmoles).

reactant | 1-benzenesulfonylmethyl-3-(2-chloro-ethoxy)-2-nitrobenzene | 1.6 mmoles, 0.57 g | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C(=CC=C1)OCCCl)[N+](=O)[O-] | C15H14ClNO5S
reactant | Hydrazine hydrate | 1.5 mL | O.NN
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-Benzenesulfonylmethyl-6-(2-chloro-ethoxy)-phenylamine | C1(=CC=CC=C1)S(=O)(=O)CC1=C(C(=CC=C1)OCCCl)N | C15H16ClNO3S
